US07375227B2
357B. 1-Benzyl-4-phenoxy-piperidine
To a cold (0° C.) mixture of phenol (190 mg, 2.02 mmol) and triphenylphosphine (680 mg, 2.6 mmol) in dry THF (6.4 mL) is added dropwise over 30 min a solution of 1-benzyl-piperidin-4-ol (490 mg, 2.6 mmol) and diethylazadicarboxylate (0.41 mL, 2.6 mmol) in dry THF (4.8 mL). The mixture is stirred at room temperature under nitrogen for 20 h. The mixture is dissolved in EtOAc, washed with sat. NaHCO3 (2×20 mL), dried (MgSO4), filtered and concentrated to provide a crude oil. Flash chromatography (EtOAc/Hex: 3/7) provides the title compound.

reactant | phenol | 2.02 mmol, 190 mg | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 2.6 mmol, 680 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-benzyl-piperidin-4-ol | 2.6 mmol, 490 mg | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
solvent | THF | 6.4 mL | C1CCOC1 | C4H8O
solvent | THF | 4.8 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Benzyl-4-phenoxy-piperidine | C(C1=CC=CC=C1)N1CCC(CC1)OC1=CC=CC=C1 | C18H21NO
